US05514654
N-(7-oxododecanoyl)-L-alanyl-D-isoglutamine benzyl ester
N-(7-oxododecanoyl)-L-alanine (590 mg, 2.07 mmoles) and D-isoglutamine benzyl ester hydrochloride (565 mg, 2.07 mmoles) were dissolved in N,N-dimethylformamide (7 ml). The solution was cooled to 0° C. and diphenylphosphoryl azide (578 mg, 2.1 mmoles) and triethylamine (424 mg, 4.2 mmoles) were added thereto. The reaction mixture was stirred for 1 hour on an ice bath and for another 48 hours at room temperature. To the resulting suspension there were added benzene (5 ml) and ethyl acetate (25 ml) and it was washed successively with citric acid (0.52M; 3×5 ml), water (3×5 ml), saturated NaCl solution (3×5 ml), saturated NaHCO3 solution (3×5 ml), water (3×5 ml) and saturated NaCl solution (3×5 ml). The organic phase was dried with MgSO4 and filtered, the filtrate was evaporated and the compound was precipitated from n-hexane/diethyl ether.

reactant | N-(7-oxododecanoyl)-L-alanine | 2.07 mmoles, 590 mg | O=C(CCCCCC(=O)N[C@@H](C)C(=O)O)CCCCC | C15H27NO4
reactant | D-isoglutamine benzyl ester hydrochloride | 2.07 mmoles, 565 mg | Cl.C(C1=CC=CC=C1)OC(CC[C@@H](N)C(N)=O)=O
reactant | diphenylphosphoryl azide | 2.1 mmoles, 578 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 4.2 mmoles, 424 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | N-(7-oxododecanoyl)-L-alanyl-D-isoglutamine benzyl ester | C(C1=CC=CC=C1)OC(CC[C@@H](NC([C@@H](NC(CCCCCC(CCCCC)=O)=O)C)=O)C(N)=O)=O | C27H41N3O6
